US07022725B2
To a solution of ethyl 3-(4-chloro-3-fluorophenyl)isoxazole-4-carboxylate (12.00 g) in tetrahydrofuran (100 ml) was gently added diisobutylaluminum hydride (1.0 M tetrahydrofuran solution, 100 ml) at 0° C. and the mixture was stirred at room temperature for 30 min. The reaction mixture was poured into dilute hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated to give 3-(4-chloro-3-fluorophenyl)-4-isoxazolylmethanol (9.75 g, yield 96%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point: 124–125° C.

reactant | ethyl 3-(4-chloro-3-fluorophenyl)isoxazole-4-carboxylate | 12.00 g | ClC1=C(C=C(C=C1)C1=NOC=C1C(=O)OCC)F | C12H9ClFNO3
reactant | diisobutylaluminum hydride | 1.0 M, 100 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(4-chloro-3-fluorophenyl)-4-isoxazolylmethanol | 9.75 g, yield 96% | ClC1=C(C=C(C=C1)C1=NOC=C1CO)F | C10H7ClFNO2
